US07951810B2
Step a: 5-Iodo-4-phenethyl-7H-pyrrolo[2,3-d]pyrimidine
To a solution of 4-phenethyl-7H-pyrrolo[2,3-d]pyrimidine (3.15 g, 14.1 mmol) in AcCN was added N-iodosuccinimide and the mixture was stirred at r.t. for 12 hr. The precipitate was collected and recrystallized from MeOH to give the title compound (4.06 g, 83%).

reactant | 4-phenethyl-7H-pyrrolo[2,3-d]pyrimidine | 14.1 mmol, 3.15 g | C(CC1=CC=CC=C1)C=1C2=C(N=CN1)NC=C2 | C14H13N3
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
solvent | AcCN | C(=O)(C)C#N | C3H3NO
product | 5-Iodo-4-phenethyl-7H-pyrrolo[2,3-d]pyrimidine | 4.06 g, 83% | IC1=CNC=2N=CN=C(C21)CCC2=CC=CC=C2 | C14H12IN3
